.SUBCKT main
r3 0 0 0
r1 0 0 0
r6 0 0 0
r8 0 0 0
r17 0 0 0
r5 0 0 0
r7 0 0 0
r13 0 0 0
r9 0 0 0
r15 0 0 0
r11 0 0 0
r12 0 0 0
r14 0 0 0
r4 0 0 0
r2 0 0 0
r16 0 0 0
r0 0 0 0
r10 0 0 0
.ENDS
.END