.SUBCKT main
r43 0 0 0
r3 0 0 0
r42 0 0 0
c7 0 0 0
c20 0 0 0
r10 0 0 0
r18 0 0 0
r40 0 0 0
r24 0 0 0
c32 0 0 0
r28 0 0 0
c4 0 0 0
r13 0 0 0
c3 0 0 0
r23 0 0 0
r44 0 0 0
r4 0 0 0
r34 0 0 0
r17 0 0 0
c2 0 0 0
r20 0 0 0
c30 0 0 0
r38 0 0 0
c19 0 0 0
c13 0 0 0
c5 0 0 0
r0 0 0 0
r21 0 0 0
r46 0 0 0
c31 0 0 0
r27 0 0 0
c10 0 0 0
r6 0 0 0
r14 0 0 0
r32 0 0 0
c12 0 0 0
r22 0 0 0
c25 0 0 0
c23 0 0 0
r45 0 0 0
c11 0 0 0
c18 0 0 0
r31 0 0 0
r35 0 0 0
r2 0 0 0
r48 0 0 0
c22 0 0 0
r5 0 0 0
r30 0 0 0
c27 0 0 0
c21 0 0 0
c8 0 0 0
r19 0 0 0
c16 0 0 0
r8 0 0 0
c15 0 0 0
c24 0 0 0
r1 0 0 0
r41 0 0 0
r9 0 0 0
r37 0 0 0
c14 0 0 0
c17 0 0 0
c0 0 0 0
r11 0 0 0
r36 0 0 0
r12 0 0 0
r39 0 0 0
r7 0 0 0
r16 0 0 0
c29 0 0 0
r47 0 0 0
c6 0 0 0
r49 0 0 0
c1 0 0 0
r15 0 0 0
c9 0 0 0
r25 0 0 0
r26 0 0 0
r29 0 0 0
r33 0 0 0
c26 0 0 0
c28 0 0 0
.ENDS
.END